US06984646B2
2,3-Dimethyl-8-(3-methoxybenzoyl)imidazo[1,2-a]pyridin-5(1H)-one
The compound is prepared as described in example 20 with 55 mg (0.02 mmol) of 2-(4,5-Dimethyl-1H-imidazol-2-yl)-1-(3-methoxyphenyl)ethanone hydrochloride (example LV), 250 mg (4.62 mmol) of sodium methylate and 74 mg (0.89 mmol) methyl propiolate.

reactant | 2-(4,5-Dimethyl-1H-imidazol-2-yl)-1-(3-methoxyphenyl)ethanone hydrochloride | 0.02 mmol, 55 mg | Cl.CC=1N=C(NC1C)CC(=O)C1=CC(=CC=C1)OC
reactant | sodium methylate | 4.62 mmol, 250 mg | C[O-].[Na+]
reactant | methyl propiolate | 0.89 mmol, 74 mg | C(C#C)(=O)OC | C4H4O2
product | 2,3-Dimethyl-8-(3-methoxybenzoyl)imidazo[1,2-a]pyridin-5(1H)-one | CC=1NC=2N(C(C=CC2C(C2=CC(=CC=C2)OC)=O)=O)C1C | C17H16N2O3
